US06740641B2
2,3,4,6-Tetra-O-acetyl-α-D-glucopyranosyl bromide (1.20 g, 3.0 mmol) was added in one portion to a stirred solution of LiOH·H2O (0.15 g, 3.5 mmol) and dihydromorphine (1.0 g, 3.0 mmol) in dry methanol (10 mL) at room temperature. The resulting mixture was stirred for 1 hr, a solution of LiOH·H2O (0.42 g, 10.0 mmol) in water (10 mL) was added dropwise to the mixture, and the mixture allowed to stir for an additional 3 hr. The resulting suspension was acidified to pH 7 with acetic acid (0.5 mL) and 20 mL of chloroform was added. The resulting precipitate was removed by filtration and washed with ethanol (20 mL) following by acetone (20 mL), to provide a crude product. The crude product was dissolved in 50% aqueous methanol (12 mL), recrystallized at 0° C., filtered, and dried under reduced pressure (10 mm Hg, 50° C.) to provide 0.33 g (30%) of 3-O—β-glucosyldihydromorphine.

reactant | 2,3,4,6-Tetra-O-acetyl-α-D-glucopyranosyl bromide | 3.0 mmol, 1.20 g | C(C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)Br | C14H19BrO9
reactant | LiOH·H2O | 3.5 mmol, 0.15 g | O[Li].O
reactant | dihydromorphine | 3.0 mmol, 1.0 g | CN1CC[C@]23C=4C5=CC=C(C4O[C@H]2[C@H](CC[C@H]3[C@H]1C5)O)O | C17H21NO3
reactant | LiOH·H2O | 10.0 mmol, 0.42 g | O[Li].O
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | methanol | 12 mL | CO | CH4O
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-O—β-glucosyldihydromorphine | 0.33 g, 30% | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC=1CCC=2C[C@@H]3[C@@H]4C=C[C@@H]([C@H]5[C@@]4(C2C1O5)CCN3C)O | C23H31NO8
